* C:\Users\hites\Desktop\Github_Ideas\Boost converter\Boost-converter\Components_Selection\LTSpice\Capacitor_explanation.asc
V1 N006 0 AC 1
C1 0 Ideal 47µ
R1 Ideal N006 5
C2 Ideal_Cap N005 1µ
R2 0 Ideal_Cap 100k
V3 N007 0 AC 1
C3 0 ESR 47µ Rser=0.1
R3 ESR N007 5
V4 N009 0 AC 1
C4 0 ESR+ESL 47µ Rser=0.1 Lser=10n
R4 ESR+ESL N009 5
V2 N005 0 30 Rser=1m
C5 N010 Ideal_cap+leakage_resistor 1µ Rpar=1Meg
R5 0 Ideal_cap+leakage_resistor 100k
V5 N010 0 30 Rser=1m
V6 N008 0 AC 1
C6 0 ESL 47µ Lser=10n
R6 ESL N008 5
V7 N001 0 SINE(0 2.5 {frequency})
C7 0 Ideal 47µ
R7 Ideal N001 5
C8 0 ESR 47µ Rser=0.1
R8 ESR N002 5
C9 0 ESR+ESL 47µ Rser=0.1 Lser=10n
R9 ESR+ESL N004 5
C10 0 ESL 47µ Lser=10n
R10 ESL N003 5
V8 N002 0 SINE(0 2.5 {frequency})
V9 N003 0 SINE(0 2.5 {frequency})
V10 N004 0 SINE(0 2.5 {frequency})
;ac dec 1000 10 100Meg
;tran 0 1s 0s startup
* Check if input voltage actually drops
* Ideal cap
* Ideal cap with ESR
* Ideal cap with ESR+ESL
* Ideal Cap
* Ideal Cap+Leakage Resistor
* Ideal cap with ESL
* Ideal cap
* Ideal cap with ESR
* Ideal cap with ESR+ESL
* Ideal cap with ESL
.tran 1us startup
.param frequency 5Meg
.backanno
.end
