* C:\Users\hites\Desktop\Github_Ideas\Boost converter\Boost-converter\Current_Sensor\LTSpice\Current_sensor_fun.asc
R1 V_shunt_IGBT N002 0.02
I_sw_IGBT 0 V_shunt_IGBT PWL Repeat forever (0 0 20u 0 21u 4 75.7u 5 76.7u 0 86.7u 0) endrepeat
L1 N002 0 9n
R2 V_shunt_MOSFET N001 0.02
I_sw_MOSFET 0 V_shunt_MOSFET PWL Repeat forever (0 0 10u 0 10.5u 4 19.25u 5 19.75u 0 22.5u 0) endrepeat
L2 N001 0 9n
.tran 0.5m
* Transistor Current with IGBT model
;tran 0.1m
.backanno
.end
