* C:\Users\hites\Desktop\Github_Ideas\Boost converter\Boost-converter\Switching_behavior\LTspice\RLC_Step.asc
R1 N015 N014 22
L1 N015 RLC_V_DS 11.3µ
V1 N014 0 PULSE(0 1 100ns 50ns 50ns 20us 40 2)
R3 N004 N003 22.5
L2 N004 N008 1.5µ
V3 N012 N018 PULSE(-4 12.5 10ns 70ns 50ns 8.75us 12.5us 2)
V4 N006 0 45
C1 RLC_V_DS 0 58p
XX1 V_DS N013 N018 N018 NC_01 NC_02 C3M0075120K
R4 N013 N012 8
C2 N004 N003 1.2n
R6 N007 N006 20m
L4 N007 N003 3n
L5 N008 V_DS 3n
R8 N019 0 20m
L6 N019 N018 3n
C4 N003 N018 1n
R9 N005 N001 22
L7 N005 N002 2.1µ
V6 N016 N021 PULSE(-4 12.5 10ns 70ns 50ns 8.75us 12.5us 2)
V7 N009 0 45
XX3 V_DS3 N017 N021 N021 NC_03 NC_04 C3M0075120K
R10 N017 N016 8
C5 N005 N001 1.2n
R11 N010 N009 20m
L8 N010 N001 3n
L9 N011 V_DS3 3n
R12 N011 N002 20m
R13 N020 0 20m
L10 N020 N021 3n
C6 N001 N021 1n
D2 N002 N001 MBR20100CT
.model D D
.lib C:\Users\hites\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 30u
.include C3M0075120K.lib
* Parasitics of wire
* Resistor model with parasitics
* Some parasitics of traces
.backanno
.end
