
**************************************************************************************************************************************************************************************************
*
*     888888               888888 	        888888     .o888888888888o.     8888  		88888888888	o888888888888888     88888888888888o	88888888888   88888888888   8888888888o
*       88888             88888888             88888      .8888888  8888888.    8888  		88888888888    o8888888888888888     888888  8888888o	88888888888   88888888888   88888888888o
*        88888           8888  8888           88888      .8888888.  .8888888.   8888  		8888	       888888888	     888888  88888888	8888	      8888	    8888   88888
*         88888         8888    8888         88888       88888888    88888888   8888		8888   	       888888888	     888888  88888888	8888	      8888	    8888   88888
*	   88888       8888      8888       88888        88888888    88888888   8888  		8888888	       o888888888888888o     888888  8888888o	8888888	      8888888	    8888   88888
*	    88888     8888        8888     88888	 88888888    88888888   8888  		8888888		o888888888888888o    88888888888888o	8888888	      8888888       8888   88888
*	     88888   8888          8888   88888          88888888    88888888   8888  		8888		         88888888    8888		8888	      8888	    8888   88888
*	      88888 8888            8888 88888  	 .8888888.  .8888888.   8888  		8888 			 88888888    8888		8888	      8888	    8888   88888
*	       88888888	 	     88888888		  .8888888  8888888.    88888888888	8888		8888888888888888o    8888		88888888888   88888888888   88888888888o
*		888888		      888888  		   .o888888888888o.     88888888888	8888		888888888888888o     8888		88888888888   88888888888   8888888888o
*
**************************************************************************************************************************************************************************************************
*******************************************************************************
**	DISCLAIMER
*******************************************************************************
**	This model is provided as is, where is, and with no warranty of any kind
**	either expressed or implied, including but not limited to any implied
**	warranties of merchantability and fitness for a particular purpose.
*******************************************************************************

***********************************************************
****	Cree SiC MOSFET C3M0075120K Spice Library
****	Revision 2.0 Date: 11-27-2017
****	Revision 3.0 Date: 01-22-2018
****	Revision 4.0 Date: 06-19-2018
****	Revision 5.0 Date: 09-20-2019
****	Revision 6.0 Date: 02-24-2021
***********************************************************
****	Revision record
****	Revision 1	Initial Release
****	Revisionn 2	Include Tc at gmos subcircuit
****	Revision 3	This spice model is compatible to both Ltspice and Orcad Pspsice
****	Revision 4	Update the thermal RC model
****	Revision 5	Update datasheet version D 07-2019 and excluded reactive power loss
****	Revision 6	Improved dynamic performance
*********************************************************************************
****Parasitics Included
****Tj = Junction Temperature
****Tc = Case Temperature
****D = Drain
****G = Gate
****S1 = Kelvin Source
****S2 = Power Source
***********************************************************

.subckt C3M0075120K d g s1 s2 Tj Tc
.param p11 = -8
.param p12 = 19
.param Rgint = 9

R1022	Tjc	0	1E6
E1022	Tjc	0 	value {limit(v(Tj),-60,260)}

R100	gk	s	1E6
E100	gk	s 	value {limit(v(g1,s),-8,19)}

e33	NET3	0	Value {Limit(8.381u*V(Tjc)**2-4.696m*V(Tjc)+2.8224,1.7,3.2)}
R_cc	NET3	0 	1E6

xgmos	d3 d1 gk s Tjc NET3 gmos_C3M0075120K

RS1		s1	sb	24.88m
Ls1 	sb	sv	7.574n
R_Ls1	sb	sv	100

RS2		s2	sa	3.322m
Ls2 	sa	sv	3.435n
R_Ls2	sa	sv	100

Lv		sv	s	0.2n
R_Lv	sv	s	100

R_g 	g1	g2	{Rgint}
RG		g	ga	37.85m
Rg_eq	gb	ga	5
Lg 		gb	g2	11.364n
R_LG	gb	g2	100

Rd		d	da	87.416u
Ld 		da	d3      4.3659n
R_Ld		da	d3	5

Ed		Id	0	value {I(Vdrain_s)}
Rdd		Id	0	1E6

vdrain_s	d3	d1	0
Gheat		0	Tj	value = {abs((V(d1,s)*v(Id)))+abs((V(g1,g2)**2/Rgint))}

xCGD	d3	g1	cgdmos_C3M0075120K
CGS		g1	s	1388p
R_CGS	g1	s	10E6
R_GD	g1	d3	10E6
R_DS	d3	s	10E6

R1001 gr 0	1E6
E1001 gr 0	value {limit(V(g1,s),-8,15)}

R_Er 	dd13 	dd14	1E6
Er 		dd13 	dd14	value {-((239.024n*(V(Tjc)**2)-17.829u*V(Tjc)+296.341u))*v(net1)}

Eth	dd12	d1	value {
+			if (V(gk,s)>V(NET3),
+				Limit(((-22.48u*V(Tjc)**3+5.637m*V(Tjc)**2+87.27m*V(Tjc)-59.02)*(V(gr)**3)+
+				(567.2u*V(Tjc)**3-0.1404*V(Tjc)**2-2.866*V(Tj)+1502.6)*(v(gr)**2)+
+				(-3.728m*V(Tjc)**3+0.9245*V(Tjc)**2+20.77*V(Tj)-9359.8)*v(gr)+
+				(5.447m*V(Tjc)**3-1.424*V(Tjc)**2-31.8*V(Tjc)+13239.5))/1000,-3,15)
+				,
+				Limit(((3.788u*V(Tjc)**3-2.125m*V(Tjc)**2+0.2401*V(Tjc)-10.98)*(V(gr)**2)+
+				(18.97u*V(Tjc)**3-8.24m*V(Tjc)**2+1.272*V(Tj)-339.4)*v(gr)+
+				(20.94u*V(Tjc)**3+6.024m*V(Tjc)**2-3.617*V(Tjc)-1063.7))/1000,-3,15)
+				)
+				}
*Eth2	dd12	d1	value {-0.48}
rth2	dd12	d1	1E6
vdiode1	dd12	dd13	0

Esn1	net1	0	value {I(vdiode1)}
Rsn1	net1	0	1E6

D1			s	dd14	bodydiode_C3M0075120K
xCDS		d1	s	cds_C3M0075120K
CDS1		d3	s	1p
R_DS1		d1	s	0.4G


.model bodydiode_C3M0075120K d(is=0.88p rs=0.07 n=5.4 bv=1590 tt=2n
+ ibv=500u T_abs=25 level=1)

R0 N1 Tj 63.78m
R1 N2 N1 0.1553
R2 N3 N2 99.42m
R3 Tc N3 0.1417

C0 Tj 0 1.31m
C1 N1 0 6.698m
C2 N2 0 19.41m
C3 N3 0 73.01m

.ends C3M0075120K
*****************************************

.subckt gmos_C3M0075120K d3 d1 gk s Tjc NET3

e2		NET2	0	Value {Limit(((-83.91n*V(Tjc)**3+17.258u*V(Tjc)**2-1.0366m*V(Tjc)-0.64411)*V(gk,s)**3+
+				(5.6467u*V(Tjc)**3-1.1063m*V(Tjc)**2+26.636m*V(Tjc)+30.249)*v(gk,s)**2+
+				(-107.35u*V(Tjc)**3+19.146m*V(Tjc)**2+38.629m*V(Tjc)-385.61)*v(gk,s)+
+				(628.05u*V(Tjc)**3-0.11422*V(Tjc)**2-0.73029*V(Tjc)+1979.8))/850,0.2,3)
+			}
R_B		NET2	0 	1E6

e4		NET4	0	Value {Limit(((-6.177u*V(Tjc)**3+775.8u*V(Tjc)**2+86.08m*V(Tjc)-5.64)*(V(gk,s)**2)+
+					(158.1u*V(Tjc)**3-21.2m*V(Tjc)**2-1.852*V(Tjc)+119.6)*v(gk,s)+
+					(-981.7u*V(Tjc)**3+0.1435*V(Tjc)**2+8.352*V(Tjc)-518.2))/1000,0,2)
+					}
R_d		NET4	0 	1E6

*e99		P99	0	value {0.14}
e9		P9	0	value {Limit(((2.358m*V(Tjc)**2-0.2798*V(Tjc)+2.489)*(V(gk,s)**2)+
+					(-58.48m*V(Tjc)**2+6.914*V(Tjc)-70.26)*v(gk,s)+
+					(0.3501*V(Tjc)**2-41.581*V(Tjc)+565.9))/1000,0,10)
+					}
R9		P9	0	1E6

*e6		NET6   0	Value {0.23}
e5		NET5   0	Value {Limit(((11.475u*V(Tjc)**2-4.1872m*V(Tjc)+80.839m)*V(gk,s)**4+
+				(-603.86u*V(Tjc)**2+0.21363*V(Tjc)-2.7585)*V(gk,s)**3+
+				(11.277m*V(Tjc)**2-3.7889*V(Tjc)+16.811)*V(gk,s)**2+
+				(-86.567m*V(Tjc)**2+26.474*V(Tjc)+149.31)*v(gk,s)+
+				(0.22946*V(Tjc)**2-56.698*V(Tjc)-204.37))/10000,0.001,13)
+			}
R_e		NET5	0 	1E6


e_P8	P8	0	Value {Limit(82.34u*1.851e6**(1/V(gk,s))*(V(gk,s)**0.6638)*(7.509m*V(gk,s)**2+3.114m*V(gk,s)+63.736m),0.001,1)}
R_R	P8	0 	1E6

********************************
G2 d1 s value {
+	if(V(d3,s)<=0,
+		if (V(gk,s)<V(NET3),
+		0
+		,
+		-((((v(NET5)+v(NET4))*(v(gk,s)-V(NET3))))*(1+v(P9)*v(s,d3))*(((log(1+exp(v(gk,s)-V(NET3))))**2)-
+		((log(1+exp(v(gk,s)-V(NET3)-(V(NET2)*v(s,d3)))))**2)))*(-6.223u*V(Tjc)**2+720.197u*V(Tjc)+0.8877)
+		)
+		,
+		if (V(gk,s)<V(NET3),
+		0
+		,
+		(((v(NET5))*(v(gk,s)-V(NET3))))*(1+v(P8)*v(d3,s))*(((log(1+exp(v(gk,s)-V(NET3))))**2)-
+		((log(1+exp(v(gk,s)-V(NET3)-(V(NET2)*v(d3,s)))))**2))*(-6.223u*V(Tjc)**2+720.197u*V(Tjc)+0.8877)
+		)
+			)
+			}
R_G2 d1 s 10E6

.ends gmos_C3M0075120K

****************************************

.subckt cgdmos_C3M0075120K d3 g1
.param k1=555p
.param k2=0.565
.param ka=45
.param kb=0.3
.param kc=6
G11 g1 d1 value {
+		k1*(
+		(1+(limit(v(d1,g1),0.1,600))*(1+ka*(1+TANH(kb*V(d1,g1)-kc))/2))**(-k2)
+		)*ddt(v(g1,d1))
+			}
R_G11 g1 d1 10E6

R_CGD d1 d3 1
.ends cgdmos_C3M0075120K

.subckt cds_C3M0075120K d3 s

.param Cjo = 1108p
.param Vj  = 4.5
.param M   = 0.63

G12 d1 s value {
+		(Cjo/(1+(limit(v(d3,s),0.1,460)/Vj)**M))*ddt(v(d3,s));
+			}
R_G12 d1 s 10E6

R_CDS d1 d3 1E-4

.ends cds_C3M0075120K

****************************************

